US06545159B2
4-Vinyl-phenylboronic acid (10 g, 0.0676 mol), 2-bromopyridine (12.64 g, 0.08 mol), tetrahydrofuran (100 ml), 2M potassium carbonate aqueous solution (26 ml), and tetrakis(triphenylphosphine) palladium (Pd(Ph3)4, 0.06 g, 1 mol %) were placed into 250 ml of 2-necked round-bottomed flask under N2. The reaction mixture was refluxed at 80° C. for 24 hr and then poured in 200 ml of water in beaker. The reaction mixture was extracted with ether (3×150 ml) and the ether layer was then dried over magnesium sulfate (10 g) by stirring for 30 min. The dried ether layer was evaporated in vacuo to dryness and purified further by column chromatography on silica gel with eluting hexane/ethylacetate (1/9) to yield 2-(4-vinyl-phenyl)pyridine (90%).

reactant | 4-Vinyl-phenylboronic acid | 0.0676 mol, 10 g | C(=C)C1=CC=C(C=C1)B(O)O | C8H9BO2
reactant | 2-bromopyridine | 0.08 mol, 12.64 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | potassium carbonate | 2M, 26 ml | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 0.06 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-vinyl-phenyl)pyridine | 90% | C(=C)C1=CC=C(C=C1)C1=NC=CC=C1 | C13H11N
